US04173478
Preparation of N-(benzimidazol-6-yl)-2-hydroxy-5-(4-methoxyphenylazo)benzamide (Dye 10)
5-(4-Methoxyphenylazo)salicoyl chloride and 6-aminobenzimidazole were reacted together as described for Preparation 7. The product was crystallized in aqueous pyridine, m.p. 274°, λmax (methanol)=350 nm.

reactant | 5-(4-Methoxyphenylazo)salicoyl chloride | COC1=CC=C(C=C1)N=NC1=CC=C(C(C(=O)Cl)=C1)O | C14H11ClN2O3
reactant | 6-aminobenzimidazole | NC=1C=CC2=C(N=CN2)C1 | C7H7N3
product | N-(benzimidazol-6-yl)-2-hydroxy-5-(4-methoxyphenylazo)benzamide | N1=CNC2=C1C=C(C=C2)NC(C2=C(C=CC(=C2)N=NC2=CC=C(C=C2)OC)O)=O | C21H17N5O3
